US08114891B2
Quinuclidin-4-ylmethyl 6-methoxy-1H-indole-3-carboxylate was prepared starting from 6-methoxyindole-3-carboxylic acid (synthesized as described in J. Med. Chem. 51, 1849 (2008)) following the procedure of (Quinuclidin-4-yl)methyl 1H-indole-3-carboxylate. MS (m/e): 314.

reactant | 6-methoxyindole-3-carboxylic acid | COC1=CC=C2C(=CNC2=C1)C(=O)O | C10H9NO3
reactant | (Quinuclidin-4-yl)methyl 1H-indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCC12CCN(CC1)CC2 | C17H20N2O2
product | Quinuclidin-4-ylmethyl 6-methoxy-1H-indole-3-carboxylate | COC1=CC=C2C(=CNC2=C1)C(=O)OCC12CCN(CC1)CC2 | C18H22N2O3
